US05912349
N-Methyl-N-Phenyl-α-Carbomethoxyacetamide (V)
The carbomethoxy acetyl chloride mixture is cooled in an ice-salt bath to -5 to 0° and N-methyl aniline (55.64 g, 0.52 mol) in methylene chloride (200 ml) is added at a rate so as to maintain the temperature of the reaction mixture between -5 to 0°. The addition is performed using an addition funnel and can normally be carried out over a 3-5 min time period to control the slight exotherm. Pyridine (66.36 g, 0.84 mol) in methylene chloride (200 ml) is then added to the above mixture. The addition rate is adjusted so as to keep the temperature of the reaction between -5 to 0° during the addition. The addition is performed using an addition funnel and can normally be carried out over a 3-5 min time period to control the slight exotherm. After the addition is complete (as measured by HPLC) the reaction is quenched by pouring the reaction mixture into water (500 ml) and stirring continued for 30 min. The reaction is equilibrated and the methylene chloride layer separated. Additional methylene chloride (400-500 ml) is added and the methylene chloride mixture is washed successively with hydrochloric acid (1N, 2×300 ml), saturated sodium bicarbonate solution (2×300 ml), saline (1×600 ml) and the methylene chloride mixture dried through anhydrous sodium sulfate. Concentration of the mixture under reduced pressure at 40-45° gives the title compound, HPLC (Nucleosil column; acetonitrile/water, 45/55, 1 ml/min, UV=229 nm; Retention times for N-methyl-N-phenyl-α-carbomethoxyacetamide~6.0 min; N-methyl aniline~11.0-12.0 min.

reactant | carbomethoxy acetyl chloride | C(=O)(OC)CC(=O)Cl | C4H5ClO3
reactant | N-methyl aniline | 0.52 mol, 55.64 g | CNC1=CC=CC=C1 | C7H9N
reactant | Pyridine | 0.84 mol, 66.36 g | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | N-Methyl-N-Phenyl-α-Carbomethoxyacetamide | CN(C(CC(=O)OC)=O)C1=CC=CC=C1 | C11H13NO3
